US06617346B1
Hydrogen chloride gas was passed through a solution of 2-(2-dimethylamino-ethoxy)-4-methoxy-benzonitrile (200 mg, 0.908 mmol) in anhydrous ethanol (10 mL) at 0° C. After 45 min, hydrogen chloride gas was stopped and the reaction vessel was sealed with a septum. After stirring at room temperature for 3 d, the reaction vessel was cooled to 0° C. and the septum was removed. The solvent was removed in vacuo to afford ethyl 2-(2-dimethylamino-ethoxy)-4-methoxy-benzimidate hydrochloride as a pale-yellow foam (310 mg, 96%). It was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-(2-dimethylamino-ethoxy)-4-methoxy-benzonitrile | 0.908 mmol, 200 mg | CN(CCOC1=C(C#N)C=CC(=C1)OC)C | C12H16N2O2
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 2-(2-dimethylamino-ethoxy)-4-methoxy-benzimidate hydrochloride | 310 mg, 96% | Cl.CN(CCOC1=C(C(OCC)=N)C=CC(=C1)OC)C | InChI=1S/C14H22N2O3.ClH/c1-5-18-14(15)12-7-6-11(17-4)10-13(12)19-9-8-16(2)3;/h6-7,10,15H,5,8-9H2,1-4H3;1H
